US07432258B2
c) N-[1-(3-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide
A mixture of [1-(3-bromophenyl)-2-(4-morpholinyl)ethyl]methylamine (3.06 g, 10.2 mmol) and (6,7-dichloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid (2.82 g, 10.2 mmol) was dissolved in a mixture of dichloromethane and DMF (1:1, 100 mL). BOP Reagent (7.16 g, 16.6 mmol) was added followed by triethylamine (4.36 g, 43.2 mmol). The resultant mixture was stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (150 mL) and extracted with 5% NaHCO3 (150 mL) and brine (150 mL). The organic layer was dried over MgSO4, and concentrated. The residue was recrystallized in ether, and the crystal was collected by filtration to give the title compound as a white solid (3.17 g, 56%). MS (ESI): 556.2 [M+H]+.

reactant | [1-(3-bromophenyl)-2-(4-morpholinyl)ethyl]methylamine | 10.2 mmol, 3.06 g | BrC=1C=C(C=CC1)C(CN1CCOCC1)NC | C13H19BrN2O
reactant | (6,7-dichloro-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid | 10.2 mmol, 2.82 g | ClC=1C(=CC2=C(N(CCO2)CC(=O)O)C1)Cl | C10H9Cl2NO3
reactant | BOP Reagent | 16.6 mmol, 7.16 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 43.2 mmol, 4.36 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-[1-(3-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 3.17 g, 56% | BrC=1C=C(C=CC1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C23H24BrCl2N3O4
